US08202865B2
Step 2: Methyl 4-{5-[3-amino-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate
Stannous chloride dihydrate (20.49 g; 90.82 mmol) was added to a suspension of methyl 2-fluoro-4-{5-[4-(2-methylpiperidin-1-yl)-3-nitrophenyl]-1,2,4-oxadiazol-3-yl}benzoate, obtained in step 1, (8 g; 18.16 mmol) in EtOH (80 mL) and the resulting mixture was stirred at reflux for 3 hours. The solution was diluted with a saturated aqueous solution of NaHCO3 and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried over MgSO4 and concentrated affording the title compound as a yellow solid. 1H NMR (DMSO, 400 MHz) δ 8.18-7.95 (m, 3H), 7.56-7.55 (d, J=1.77 Hz, 1H), 7.44-7.41 (m, 1H), 7.21-7.19 (d, J=8.38 Hz, 1H), 5.32 (br s, 2H), 3.94 (s, 3H), 3.21-2.92 (m, 2H), 1.88-1.22 (m, 7H), 0.88 (d, J=6 Hz, 3H). LC/MS (Method B): 411.4 (M+H)+; 417.2 (M−H)−. HPLC: Rt 4.47 min (Purity: 95.6%).

reactant | methyl 2-fluoro-4-{5-[4-(2-methylpiperidin-1-yl)-3-nitrophenyl]-1,2,4-oxadiazol-3-yl}benzoate | FC1=C(C(=O)OC)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)[N+](=O)[O-] | C22H21FN4O5
solvent | EtOH | 80 mL | CCO | C2H6O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Methyl 4-{5-[3-amino-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate | NC=1C=C(C=CC1N1C(CCCC1)C)C1=NC(=NO1)C1=CC(=C(C(=O)OC)C=C1)F | C22H23FN4O3
